US06437171B1
(a) Preparation of (3R,4S,5R)-5-allylamino-3-(1-ethyl-propoxy)-4-hydroxy-cyclohex-1-enecarboxylic acid ethyl ester
In a 2.5 l 4-necked round bottom flask equipped with a reflux condenser, a thermometer, a mechanical stirrer and an inert gas supply 254.3 g (1.0 mol) of (1S,5R,6S)-5-(1-ethyl-propoxy)-7-oxa-bicyclo[4.1.0]hept-3-ene-3-carboxylic acid ethyl ester were dissolved under argon with stirring in 900 ml tert.-butyl methyl ether and 100 ml acetonitrile whereby the temperature dropped to about 10° C. To the clear, yellowish solution 51.7 g (0.2 mol) of magnesium bromide diethyl etherate were added followed by 150 ml (2.0 mol) of allylamine whereby the temperature rose to about 20° C. The yellow suspension was heated to 55° C. whereby complete dissolution occurred after about 1.5 h. The clear yellow solution was refluxed for 15 h. The yellowish, turbid solution was cooled to about 30° C. and stirred vigorously with 1000 ml of 1M aqueous ammonium sulfate for 15 min whereby a clear two-phase mixture evolved after initial cloudiness. The organic phase was separated, filtered and evaporated in a rotary evaporator at 48° C./340 mbar to a volume of about 580 ml. The solid particles were filtered and the brown solution was evaporated at 48° C./340 to 15 mbar for 2 h to yield as the crude product 312.8 g (97%) of (3R,4S,5R)-5-allylamino-3-(1-ethyl-propoxy)-4-hydroxy-cyclohex-1-enecarboxylic acid ethyl ester as a brown-yellow oil containing about 7.0% of the 4-allylamino-5-hydroxy isomer.

reactant | (1S,5R,6S)-5-(1-ethyl-propoxy)-7-oxa-bicyclo[4.1.0]hept-3-ene-3-carboxylic acid ethyl ester | 1.0 mol, 254.3 g | C(C)OC(=O)C=1C[C@@H]2O[C@@H]2[C@@H](C1)OC(CC)CC | C14H22O4
reactant | magnesium bromide diethyl etherate | 0.2 mol, 51.7 g | CCOCC.[Mg+2].[Br-].[Br-]
reactant | allylamine | 2.0 mol, 150 ml | C(C=C)N | C3H7N
reactant | ammonium sulfate | 1M, 1000 ml | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | tert.-butyl methyl ether | 900 ml | COC(C)(C)C | C5H12O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | (3R,4S,5R)-5-allylamino-3-(1-ethyl-propoxy)-4-hydroxy-cyclohex-1-enecarboxylic acid ethyl ester | 312.8 g, 97% | C(C)OC(=O)C1=C[C@H]([C@H]([C@@H](C1)NCC=C)O)OC(CC)CC | C17H29NO4
